US06706725B1
e) [(E)-5-(5-Bromo-2-thienyl)-1,1-diethylhex-4-enyloxy]triethylsilane
2.2 g (6.9 mmol) of (E)-7-(5-bromo-2-thienyl)-3-ethyloct-6-en-3-ol are dissolved in 50 mL of dichloromethane. 25 mg (0.2 mmol) of 4-dimethylaminopyridine and 4.8 mL of triethylamine (34.8 mmol) are added and the reaction medium is cooled to 0° C. 3.9 mL (17.4 mmol) of triethylsilyl trifluoromethanesulphonate are added dropwise. After the addition, the reaction medium is warmed to room temperature and then treated with water and extracted with dichloromethane. After separation of the phases by settling, drying and concentration of the organic phases under reduced pressure, the residue obtained is purified by chromatography on a column of silica. A yellow oil is obtained (m=2.3 g; Y=97%).

reactant | (E)-7-(5-bromo-2-thienyl)-3-ethyloct-6-en-3-ol | 6.9 mmol, 2.2 g | BrC1=CC=C(S1)/C(=C/CCC(CC)(O)CC)/C | C14H21BrOS
reactant | triethylamine | 34.8 mmol, 4.8 mL | C(C)N(CC)CC | C6H15N
reactant | triethylsilyl trifluoromethanesulphonate | 17.4 mmol, 3.9 mL | FC(S(=O)(=O)O[Si](CC)(CC)CC)(F)F | C7H15F3O3SSi
reactant | water | O | H2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.2 mmol, 25 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | [(E)-5-(5-Bromo-2-thienyl)-1,1-diethylhex-4-enyloxy]triethylsilane | BrC1=CC=C(S1)/C(=C/CCC(O[Si](CC)(CC)CC)(CC)CC)/C | C20H35BrOSSi
